US09422242B2
Preparation of 3-(dimethylamino)-4-nitrobenzonitrile (Intermediate 13a)
The mixture of 16.7 g (100 mmol) of 3-fluoro-4-nitrobenzonitrile and 100 mL of the solution of dimethylamine in ethanol (5 M) was refluxed overnight. The resulting dark red solution was then poured in to 100 mL of ice-water. The precipitate was collected by filtration and washed by H2O (50 mL×2) and ethanol (50 mL×2) to give 16.9 g of a organe needle crystal as the desired product. MS ESI (m/z) 192 (M+1)+.

reactant | 3-fluoro-4-nitrobenzonitrile | 100 mmol, 16.7 g | FC=1C=C(C#N)C=CC1[N+](=O)[O-] | C7H3FN2O2
reactant | dimethylamine | CNC | C2H7N
solvent | ethanol | 5 M | C(C)O | C2H6O
product | 3-(dimethylamino)-4-nitrobenzonitrile | 16.9 g | CN(C=1C=C(C#N)C=CC1[N+](=O)[O-])C | C9H9N3O2
